US07842830B2
3,4-bis(dodecyloxy)benzaldehyde (JYC-II-041-A).
K2CO3 (50.03 g, 0.362 mol) and 1-bromododecane (90.3 g, 0.362 mol) were added to a solution of 3,4-dihydroxybenzaldehyde (25.0 g, 0.181 mol) in 500 mL of DMF. The reaction mixture was heated at 100° C. for 2 days. The mixture was poured into H2O and extracted with CH2Cl2. The organic layer was dried over anhydrous MgSO4. The solvent was removed under reduced pressure. The crude product was recrystallized from MeOH to give an off-white solid (64.8 g, 72.8%). mp 69-70° C. 1H NMR (200 MHz, CDCl3, δ): 9.80 (s, 1H), 7.36-7.41 (m, 2H), 6.92 (d, J=8.6 Hz, 1H), 4.03 (q, J=6.2 Hz, 4H), 1.81 (m, 4H), 1.44 (m, 4H), 1.24 (s, 32H), 0.85 (t, J=6.4 Hz, 6H). 13C{1H} NMR (200 MHz, CDCl3, δ): 190.92, 154.65, 149.42, 129.85, 126.54, 111.72, 110.93, 69.08, 31.89, 29.58, 29.34, 29.04, 28.96, 25.92, 22.66, 14.07. IR (cm−1): 2916, 2847, 1686, 1672, 1584, 1506, 1277, 1236, 1133, 807, 800. HRMS-FAB (m/z): [M+H]+ calcd for C31H55O3, 475.4151; found, 475.4156. Anal. Calcd for C31H54O3: C, 78.43; H, 11.46. Found: C, 78.46; H, 11.72.

reactant | K2CO3 | 0.362 mol, 50.03 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromododecane | 0.362 mol, 90.3 g | BrCCCCCCCCCCCC | C12H25Br
reactant | 3,4-dihydroxybenzaldehyde | 0.181 mol, 25.0 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | H2O | O | H2O
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 3,4-bis(dodecyloxy)benzaldehyde | 64.8 g, 72.8% | C(CCCCCCCCCCC)OC=1C=C(C=O)C=CC1OCCCCCCCCCCCC | C31H54O3
